US05756507
Step 13.2E {2-[5-(1-diethylcarbamoyl-1-methylethyl)-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl}-[4-(4-methanesulfonylaminophenyl)butyl]carbamic acid benzyl ester
A solution of 71.0 mg (0.1 mmol) of 2-[3-(2-{benzyloxycarbonyl-[4-(4-methanesulfonylamino-phenyl)butyl]amino}ethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid, 53.0 mg (0.102 mmol) of PyBOP reagent, and 14.2 mL (10.3 mg; 0.102 mmol) of triethylamine in 400 mL of dry methylene chloride was stirred at room temperature in a stoppered flask. After 25 minutes, 15.5 mL (11.0 mg; 0.15 mmol) of diethylamine was added, followed after 4 hours by an additional 36.2 mL (25.6 mg; 0.35 mmol) of diethylamine. After 1 day, the solution was partitioned between 10 mL of 0.5N hydrochloric acid. The organic phase was washed with 10 mL of saturated aqueous sodium bicarbonate solution and then with 5 mL of saturated aqueous sodium chloride solution. The ethyl acetate phase was then dried (magnesium sulfate), filtered, and concentrated in vacuo at room temperature. The residue was purified by preparative TLC on 4 Analtech tapered silica gel plates (20×20 cm), which were developed in 94:6 CH2Cl2 --MeOH. The product band from each plate was isolated, combined, and extracted with 94:6 CH2 Cl2 --MeOH. Concentration of the extracts in vacuo yielded 66.2 mg (87%) of a nearly colorless glass; virtually homogeneous by TLC in 95:5 CH2Cl2 --MeOH. 500 MHz 1H NMR (CDCl3) was complex, owing to rotamers, but was consistent with the assigned structure. Mass spectrum (ESI): m/e=765 (M+H).

reactant | 2-[3-(2-{benzyloxycarbonyl-[4-(4-methanesulfonylamino-phenyl)butyl]amino}ethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid | 0.1 mmol, 71.0 mg | C(C1=CC=CC=C1)OC(=O)N(CCC1=C(NC2=CC=C(C=C12)C(C(=O)O)(C)C)C1=CC(=CC(=C1)C)C)CCCCC1=CC=C(C=C1)NS(=O)(=O)C | C41H47N3O6S
reactant | PyBOP | 0.102 mmol, 53.0 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.102 mmol, 14.2 mL, 10.3 mg | C(C)N(CC)CC | C6H15N
reactant | diethylamine | 0.15 mmol, 15.5 mL, 11.0 mg | C(C)NCC | C4H11N
reactant | diethylamine | 0.35 mmol, 36.2 mL, 25.6 mg | C(C)NCC | C4H11N
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | {2-[5-(1-diethylcarbamoyl-1-methylethyl)-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl}-[4-(4-methanesulfonylaminophenyl)butyl]carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(CCCCC1=CC=C(C=C1)NS(=O)(=O)C)CCC1=C(NC2=CC=C(C=C12)C(C)(C)C(N(CC)CC)=O)C1=CC(=CC(=C1)C)C)=O | C45H56N4O5S
